US09302989B2
4-(4-aminophenyl)pyrrolo[1,2-d][1,2,4]triazin-1(2H)-one
To 1.181 g 4-(4-bromophenyl)pyrrolo[1,2-d][1,2,4]triazin-1(2H)-one (4.07 mmol) in toluene (10 ml) was added 0.080 g 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (0.2004 mmol), 0.063 g tris(dibenzylideneacetone)dipalladium(O) chloroform adduct (0.061 mmol) and 10.58 ml lithium bis(trimethylsilyl)amide 1M in toluene (10.58 mmol) under nitrogen at room temperature and the reaction was subsequently heated at 150° C. for 5 minutes by microwave (Biotage Initiator 2.5). Thin layer chromotography in cyclohexane/ethyl acetate=1/1 showed no starting material. After cooling the reaction mixture, 7 ml of 2N aqueous HCl was added, the mixture stirred for 30 minutes, and the mixture was basified until pH=10 by addition of aqueous NaOH (2N). A precipitate was formed. The solid was filtered and washed with ether and dried overnight to obtain the title compound. LCMS: m/z 227.0 (M+H). The filtrate was extracted with ethyl acetate. The organic phase was combined with the ether from the washing, dried over Na2SO4, filtered, and the solvent was evaporated under reduced pressure. The raw material was adsorbed on silica (dissolved in ethyl acetate), then purified by silica gel chromatography (cyclohexane:ethyl acetate gradient, the product was eluted at 80% of ethyl acetate) to afford additional title compound. 1H NMR (400 MHz, DMSO-d6) δ 11.85 (br. s., 1H), 7.32-7.44 (m, 3H), 7.09 (dd, J=3.8, 1.3 Hz, 1H), 6.66-6.77 (m, 3H), 5.67 (s, 2H). 13C NMR (400 MHz, DMSO-d6) δ 154.15, 150.86, 137.98, 129.55, 123.98, 118.70, 116.65, 113.95, 113.32, 110.58.

reactant | 4-(4-bromophenyl)pyrrolo[1,2-d][1,2,4]triazin-1(2H)-one | 4.07 mmol, 1.181 g | BrC1=CC=C(C=C1)C1=NNC(C=2N1C=CC2)=O | C12H8BrN3O
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.2004 mmol, 0.080 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | lithium bis(trimethylsilyl)amide | 1M, 10.58 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | HCl | 2N, 7 ml | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | toluene | 10.58 mmol | C1(=CC=CC=C1)C | C7H8
product | 4-(4-aminophenyl)pyrrolo[1,2-d][1,2,4]triazin-1(2H)-one | NC1=CC=C(C=C1)C1=NNC(C=2N1C=CC2)=O | C12H10N4O
